US05338853
Method C--Preparation of 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-(1,2,2,6,6-pentamethyl-4-piperidinyloxycarbonyl)hydrazine
Into a 100 ml 3-neck flask was added 7.3 grams (0.0318 mole) of 1,2,2,6,6-pentamethyl-4-piperidinyl carbazate, 12.9 grams (0.032 mole) of a 60% solution of ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate in methanol and 15 ml of methanol. The flask was equipped with a magnetic stirrer, thermometer and a Dean Stark trap with reflux condenser. The flask was placed in a hot oil bath and heated to reflux. The methanol was distilled off through the Dean Stark trap and the residue was heated for 4 hours at 75°-80° C. Liquid chromatography of the residue indicated that the reaction had proceeded to 85-90% of completion. The reaction was cooled to 50° C. and 50 ml of methanol was added to dissolve the product. The methanol solution was cooled in the freezer (-10° C.) overnight and the next day the crystals that formed were filtered off and air dried. The dry crystals weighed 3.1 grams and melted at 165°-170° C. A liquid chromatography scan indicated the presence of only one component. The infrared spectrum of the product contained a weak carbonyl peak at 1740 cm-1 and strong, sharp carbonyl peaks at 1600 and 1685 cm-1. A second crop of 4.5 grams was obtained by concentrating the filtrate to about 25 ml, cooling and filtering off the solids that formed. The filtrate was stripped to dryness, leaving 7.0 grams of product which was contaminated with small amounts of the starting materials.

reactant | 1,2,2,6,6-pentamethyl-4-piperidinyl carbazate | 0.0318 mole, 7.3 grams | C(NN)(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C11H23N3O2
reactant | ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | CC1(NC(CC(C1)NC(C(=O)OCC)=O)(C)C)C | C13H24N2O3
solvent | methanol | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-(1,2,2,6,6-pentamethyl-4-piperidinyloxycarbonyl)hydrazine | 7.0 grams | CC1(NC(CC(C1)NC(C(=O)NNC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)=O)(C)C)C | C22H41N5O4
